US07514448B2
4-(4-Fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)-thiazol-2-ylamine
To an ethanol suspension of 2-bromo-1-(4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)-ethanone (3.00 g 0.0117 mol) was added thiourea (1.18 g, 0.0234 mol), the reaction mixture was heated at 70° C. for 1 h. The suspension was filtered while still warm and to the filtration cake was added sat. sodium carbonate solution until the aqueous phase pH was around 7.5. The suspension was filtered to afford 1.8 g free base (75%). H NMR, DMSO-d6: 6.78 (s, 1H), 6.9 (s, br, 2H), 6.98 (m, 1H), 7.71 (s, 1H), 8.25 (m, 1H).

reactant | 2-bromo-1-(4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)-ethanone | 0.0117 mol, 3.00 g | BrCC(=O)C1=CNC2=NC=CC(=C21)F | C9H6BrFN2O
reactant | thiourea | 0.0234 mol, 1.18 g | NC(=S)N | CH4N2S
solvent | ethanol | C(C)O | C2H6O
product | 4-(4-Fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)-thiazol-2-ylamine | 1.8 g, 75% | FC1=C2C(=NC=C1)NC=C2C=2N=C(SC2)N | C10H7FN4S
